US08623889B2
A mixture of 3-(3-(cyclopropanecarboxamido)isoquinolin-7-yl)-4-methylbenzoic acid (41.0 mg, 0.118 mmol), 1-methylcyclobutylamine (22.5 mg, 0.264 mmol), (7-azabenzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate (81.1 mg, 0.156 mmol), N,N-diisopropylethylamine (64 uL, 0.37 mmol), 4-dimethylaminopyridine (2.89 mg, 0.0237 mmol), and N,N-dimethylformamide (2.0 mL, 26 mmol) was stirred at 50° C. for 15 hours. The reaction mixture was poured into ethyl acetate and washed with water and brine, filtered through a plug of silica gel, and evaporated in vacuo. The crude product was purified via reverse phase HPLC and lyophilized to yield 23.3 mg (78%) of 3-(3-(cyclopropanecarboxamido)isoquinolin-7-yl)-4-methyl-N-(1-methylcyclobutyl)benzamide. LCMS (ESI): RT (min)=5.083, M+H=414.2, method=E; 1H NMR (400 MHz, DMSO) δ 10.90 (s, 1H), 9.19 (s, 1H), 8.51 (s, 1H), 8.35 (s, 1H), 8.04 (s, 1H), 7.94 (d, J=8.5 Hz, 1H), 7.82 (s, 1H), 7.80 (d, J=7.9 Hz, 1H), 7.73 (dd, J=8.5, 1.5 Hz, 1H), 7.41 (d, J=7.9 Hz, 1H), 2.40-2.29 (m, 5H), 2.13-2.04 (m, 1H), 2.03-1.92 (m, 2H), 1.86-1.75 (m, 2H), 1.47 (s, 3H), 0.91-0.80 (m, 4H).

reactant | 3-(3-(cyclopropanecarboxamido)isoquinolin-7-yl)-4-methylbenzoic acid | 0.118 mmol, 41.0 mg | C1(CC1)C(=O)NC=1N=CC2=CC(=CC=C2C1)C=1C=C(C(=O)O)C=CC1C | C21H18N2O3
reactant | 1-methylcyclobutylamine | 0.264 mmol, 22.5 mg | CC1(CCC1)N | C5H11N
reactant | (7-azabenzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate | 0.156 mmol, 81.1 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | N,N-diisopropylethylamine | 0.37 mmol, 64 uL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-dimethylformamide | 26 mmol, 2.0 mL | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 0.0237 mmol, 2.89 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(3-(cyclopropanecarboxamido)isoquinolin-7-yl)-4-methyl-N-(1-methylcyclobutyl)benzamide | 23.3 mg, 78% | C1(CC1)C(=O)NC=1N=CC2=CC(=CC=C2C1)C=1C=C(C(=O)NC2(CCC2)C)C=CC1C | C26H27N3O2
